US07494999B2
Methyl-4-nitroindane-2-carboxylate:
A mixture of dimethyl-4-nitroindane-2,2-dicarboxylate (4.84 g, 0.0167 mol), lithium chloride (0.84 g, 0.0198 mol), 1.1 mL water, and 18 mL dimethylsulfoxide was heated to 160° C. under nitrogen for two hours. It was then allowed to cool and the dimethylsulfoxide was removed under high vacuum. The residue was purified on silica (10%-100% CH2Cl2 in hexanes) to give 2.5 g white solid (65%).

reactant | dimethyl-4-nitroindane-2,2-dicarboxylate | 0.0167 mol, 4.84 g | COC(=O)C1(CC2=CC=CC(=C2C1)[N+](=O)[O-])C(=O)OC | C13H13NO6
reactant | lithium chloride | 0.0198 mol, 0.84 g | [Cl-].[Li+]
reactant | water | 1.1 mL | O | H2O
solvent | dimethylsulfoxide | 18 mL | CS(=O)C | C2H6OS
product | Methyl-4-nitroindane-2-carboxylate | 2.5 g, 65% | COC(=O)C1CC2=CC=CC(=C2C1)[N+](=O)[O-] | C11H11NO4
